.include models/90nm.pm

.param volt = 1.0
.param pw = 360n
.param pl = 90n
.param nw = 180n
.param nl = 90n
.param res = 100k
.param cload = 4 * 0.98090f

vdd vdd 0 dc {volt}

vin in 0 pulse(0 {volt} 5ps 10ps 10ps 0.5ns 1ns)
vr rin 0 pulse(0 {volt} 5ps 10ps 10ps 0.5ns 1ns)

vp in voutp 0
vn in voutn 0
vout out vout 0

rp rin routp {res}
rn rin routn {res}

mprc rcout routp vdd vdd pmos l={pl} w={pw}
mnrc rcout routn 0 0 nmos l={nl} w={nw}

mp out voutp vdd vdd pmos l={pl} w={pw}
mn out voutn 0 0 nmos l={nl} w={nw}

cap vout 0 {cload}

.control
    tran 5fs 1ns
    
    * ===== rc =====
    meas tran taurise trig v(routp) val=0.01 rise=1 targ v(routp) val=0.6321 rise=1 >/dev/null
    let pc = (taurise / 1e5) * 1e15
    meas tran taufall trig v(routn) val=0.99 fall=1 targ v(routn) val=0.3679 fall=1 >/dev/null
    let nc = (taufall / 1e5) * 1e15
    echo "pmos (rc)           =  $&pc fF" 
    echo "nmos (rc)           =  $&nc  fF" 
   
    * ===== integral =====
    meas tran fallcharge integ i(vn) from=0 to=0.2ns >/dev/null
    let nc = (fallcharge / 1.0) * 1e15
    meas tran risecharge integ i(vp) from=0.4ns to=0.6ns >/dev/null
    let pc = -(risecharge / 1.0) * 1e15
    echo "pmos (integral)     =  $&pc fF"
    echo "nmos (integral)     =  $&nc fF"

    * ===== equation =====
    let pc = (((3.9 * 8.854 * 1e-12) / (2.15 * 1e-9)) * 360 * 1e-9 * 90 * 1e-9) * 1e15
    let nc = (((3.9 * 8.854 * 1e-12) / (2.05 * 1e-9)) * 180 * 1e-9 * 90 * 1e-9) * 1e15
    echo "pmos (equation)     =  $&pc fF"
    echo "nmos (equation)     =  $&nc fF"
    
    * ===== cin avg =====
    echo "cin                 =  0.98090  fF"
    
    * ===== delays =====
    meas tran tplhs trig v(in) val=0.5 fall=1 targ v(out) val=0.5 rise=1 >/dev/null
    meas tran tphls trig v(in) val=0.5 rise=1 targ v(out) val=0.5 fall=1 >/dev/null
    meas tran tfs trig v(out) val=0.9 fall=1 targ v(out) val=0.1 fall=1 >/dev/null
    meas tran trs trig v(out) val=0.1 rise=1 targ v(out) val=0.9 rise=1 >/dev/null
    let td = ((tplhs + tphls) / 2) * 1e12
    let tplh = tplhs * 1e12
    let tphl = tphls * 1e12
    let tf = tfs * 1e12
    let tr = trs * 1e12
    echo "tplh                =  $&tplh ps"
    echo "tphl                =  $&tphl ps"
    echo "td                  =  $&td ps"
    echo "tf                  =  $&tf ps"
    echo "tr                  =  $&tr ps"
    
    * ===== power =====
    let pow = v(vdd) * i(vdd)
    meas tran energy integ pow from=0 to=1ns >/dev/null
    let totalpow = -energy * (1 / 1e-9) * 1e6
    echo "total               =  $&totalpow  μW"
    
    meas tran shtckt integ i(vdd) from=0.018ns to=0.114ns >/dev/null
    meas tran loadshtckt integ i(vdd) from=0.511ns to=0.714ns >/dev/null
    let shtcktpow = -(shtckt * 2) * (1 / 1e-9) * 1e6
    let loadpow = -(loadshtckt - shtckt) * (1 / 1e-9) * 1e6
    echo "short-circuit       =  $&shtcktpow  μW"
    echo "load                =  $&loadpow  μW"

    * ===== plot =====
    plot v(in) v(out)
    plot i(vdd) i(vout)
.endc
.end
